US08557983B2
4-(1-methylpiperidin-4-ylamino)-3-nitrobenzoic acid
To a solution of ethyl 4-fluoro-3-nitrobenzoate (2.13 g) and 1-methylpiperidin-4-amine (1.14 g) in tetrahydrofuran (40 mL) was added N,N-diisopropylethylamine (5 mL). The mixture was then stirred at reflux overnight. The solvent was evaporated and the residue was dissolved in ethyl acetate (300 mL) and washed with aqueous NaHCO3, water and brine. After evaporation of the solvent, the residue was dissolved in tetrahydrofuran (20 mL), methanol (10 mL) and water (10 mL). Then, LiOH H2O (2 g) was added. The mixture was stirred at room temperature overnight. The mixture was then concentrated and the residue was neutralized with 5% aqueous HCl. The precipitate was filtered, washed with brine, and dried under vacuum to give the product.

reactant | ethyl 4-fluoro-3-nitrobenzoate | 2.13 g | FC1=C(C=C(C(=O)OCC)C=C1)[N+](=O)[O-] | C9H8FNO4
reactant | 1-methylpiperidin-4-amine | 1.14 g | CN1CCC(CC1)N | C6H14N2
reactant | N,N-diisopropylethylamine | 5 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
product | 4-(1-methylpiperidin-4-ylamino)-3-nitrobenzoic acid | CN1CCC(CC1)NC1=C(C=C(C(=O)O)C=C1)[N+](=O)[O-] | C13H17N3O4
